US06013649
Part B: To 11.4 mL (3.2 g, 23 mM) of a 2.0 M phenylmagnesium chloride solution in THF at zero° C., was added 2.6 g (11 mmol) of 3-[(4-methoxyphenyl)sulfonyl]propan-1-al from Part A in 20 mL of THF. After 1.5 hours, the reaction mixture was cooled to zero° C. and 20 mL of saturated ammonium chloride solution was added, followed by ethyl acetate and water, the organic layer was separated and washed with 5% potassium hydrogen sulfate solution, saturated sodium bicarbonate solution and brine, dried with magnesium sulfate, filtered and concentrated to afford 2.7 grams of crude product. This was chromatographed on silica gel using 35%-40% ethyl acetate/hexane to yield 1.7 g of pure 3-[(4-methoxyphenyl)sulfonyl]-1-phenylpropan-1-ol, m/z=324 (M+NH4).

reactant | phenylmagnesium chloride | 2.0 M | C1(=CC=CC=C1)[Mg]Cl
reactant | 3-[(4-methoxyphenyl)sulfonyl]propan-1-al | 11 mmol, 2.6 g | COC1=CC=C(C=C1)S(=O)(=O)CCC=O | C10H12O4S
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-[(4-methoxyphenyl)sulfonyl]-1-phenylpropan-1-ol | 1.7 g | COC1=CC=C(C=C1)S(=O)(=O)CCC(O)C1=CC=CC=C1 | C16H18O4S
